US06110914
5'-Bromospiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine]
A solution of spiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] (100 mg, 0.462 mmol) and sodium acetate (410 mg, 5 mmol) in 50% aqueous acetic acid (4 mL) was heated to 60° C. Bromine (0.100 mL, 1.94 mmol) was added via a syringe over 10 minutes, and the solution was then heated under reflux for 1 hour. The mixture was allowed to cool to ambient temperature, basified to pH>10 with sodium carbonate, and extracted with chloroform (3×15 mL). The combined extracts were dried (MgSO4), filtered, and evaporated under reduced pressure to give the title compound (110 mg, 0.37 mmol, 81%) as an off-white solid: electrospray MS 295 ([MH]+, with 79Br, 100), 297 ([MH]+, with 81Br, 98).

reactant | spiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] | 0.462 mmol, 100 mg | O1C2(CC=3C1=NC=CC3)CN3CCC2CC3 | C13H16N2O
reactant | sodium acetate | 5 mmol, 410 mg | C(C)(=O)[O-].[Na+]
reactant | Bromine | 1.94 mmol, 0.100 mL | BrBr | Br2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | 5'-Bromospiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] | 0.37 mmol, 110 mg, 81% | BrC=1C=C2C(=NC1)OC1(C2)CN2CCC1CC2 | C13H15BrN2O
